US07642264B2
N-tert-Butyl-3-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl-2′-yl]-benzenesulfonamide
The title compound was prepared from 2′-chloro-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl (example E.27) (0.403 g, 1.0 mmol) and commercially available 3-(tert-butylsulfamoyl)-benzeneboronic acid (0.334 g, 1.3 mmol) according to the general procedure VI. Obtained as a light yellow solid (0.375 g, 65%). MS (ISP) 580.3 [(M+H)+]; mp 196° C.

reactant | 2′-chloro-4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl | 1.0 mmol, 0.403 g | ClC1=NC=CC(=C1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C18H9ClF6N2
reactant | 3-(tert-butylsulfamoyl)-benzeneboronic acid | 1.3 mmol, 0.334 g | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-3-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl-2′-yl]-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=C1)C1=NC(=CC(=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C28H23F6N3O2S
